Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
___: Right Frontal-temporal Craniotomy for mass resection 
with partial temporal lobectomy

 
History of Present Illness:
___ gentleman with a history of metastatic melanoma 
since ___, now with likely brain metastasis. He is s/p 
chemotherapy and excisions of previous lesions. Since ___, 
he is subject to complex stereotyped spells, with
the feeling of his stomach raising, goosebumps developing on his 
skin, experiencing the sensation of foul smell, nausea, and then 
finally he develops a sharp headache. This happens from ___ 
times per week to ___ timesd per day. It lasts for a few 
seconds, and the headache lasts for 15 minutes.
 
Past Medical History:
1. Melanoma
2. Folliculitis

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On Admission:
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  ___       EOMs full
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3to2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

On Discharge: intacted and stable
 
Pertinent Results:
preop MRI Brain ___ with and without contrast: Stable 3.7 cm 
right medial temporal lobe mass with heterogeneous enhancement. 
Given the well circumscribed appearance and history of 
underlying malignancy metastatic etiology is most likely, and 
primary glioma is a secondary consideration. 

CT head noncontrast ___ postop: postop changes, Right 
temporal lobe hypodensity, which likely represents 
post-operative edema. Minimal pneumocephalus.

MRI Brain with and without contrast postop ___: Status post 
resection of right temporal lobe lesion. Expected post-surgical 
changes are identified. No acute infarcts or hydrocephalus.  
Subtle enhancement of the posterior margins of the surgical 
cavity.

 
Brief Hospital Course:
Elective admit for right frontal-temporal craniotomy with mass 
resection and partial temporal lobectomy on ___.  
Postoperatively the patient was extubated and transferred to the 
ICU for Q1 hour neuro checks and SBP control less than 140.  POD 
1 he was transferred to the regular floor.  Postoperatively he 
did well and remained neurologically intact.  Radiation Oncology 
and Neuro-oncology were consulted while he was inhouse and 
outpatient followup was scheduled.  He was fully ambulatory and 
independent.  At the time of discharge on POD2 he was tolerating 
a regular diet, ambulating without difficulty, afebrile with 
stable vital signs.
 
Medications on Admission:
Dexamethasone 4mg BID, Keppra 50omg BID, oxycodone PRN
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
2. acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain.  
3. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. senna 8.6 mg Tablet Sig: ___ Tablets PO DAILY (Daily) as 
needed for constipation.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
7. ranitidine HCl 150 mg Tablet Sig: 0.5 Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
8. dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right temporal mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Instructions

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•You may wash your hair only after 10 days. Your wound closure 
uses dissolvable sutures, you must keep that area dry for 10 
days. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin, prior to your injury, do not 
resume taking these until cleared by your surgeon.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

 
Followup Instructions:
___